US03953604
To a suspension of sodium ethoxide, prepared from sodium (3.0 g) and ethanol (30 ml), in dry ether (200 ml), was added a solution of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(2,5-dimethylphenoxy) propane (13.2 g) in diethyl oxalate (15 ml). The resultant solution was heated under reflux for 2 hours, and then poured onto ice (100 g). After acidification with a solution of acetic acid (12 ml) in water (80 ml), the ether layer was separated, and the aqueous layer extracted with ether (3 × 25 ml). The combined ethereal extracts were evaporated under reduced pressure to give a yellow oil. This was dissolved in ethanol (96%, 100 ml) containing hydrochloric acid (10 drops) and heated under reflux for 1 hour. Removal of the ethanol under reduced pressure gave 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-(2,5-dimethylphenoxy) propane as a yellow gum (15.2 g) which could not be crystallized.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 3.0 g | [Na] | Na
reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(2,5-dimethylphenoxy) propane | 13.2 g | C(C)(=O)C1=C(OCC(COC2=C(C=CC(=C2)C)C)O)C=CC=C1O | C19H22O5
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | diethyl oxalate | 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-(2,5-dimethylphenoxy) propane | 15.2 g | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=C(C=CC(=C1)C)C)O | C23H24O7
